US07482341B2
2,4-Dichloro-N-[6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-yl]-6-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-ylamine (0.08 g) and 2,4-dichloro-6-methyl-benzenesulfonyl chloride (0.117 g) as a light yellow gum (0.088 g). MS (ESI−): 413.1 ([M−H]−).

reactant | 6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-ylamine | 0.08 g | C1(CC1)CCOCC1=CC=CC(=N1)N | C11H16N2O
reactant | 2,4-dichloro-6-methyl-benzenesulfonyl chloride | 0.117 g | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-[6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-yl]-6-methyl-benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC1=NC(=CC=C1)COCCC1CC1 | C18H20Cl2N2O3S
